US04973600
3.52 ml of titanium tetrachloride are added dropwise to a mixture of 4.0 g of ethyl 4,5-dichloro-1,3-benzodioxole-2-carboxylate, 2.12 ml of dichloromethoxymethane and 60 ml of methylene chloride at -60° C. and the mixture is stirred at room temperature for 2 days. 2.1 ml of dichloromethoxymethane and 2.1 ml of titanium tetrachloride are added to the reaction mixture at -60° C. and the mixture is stirred at room temperature for 18 hours. The reaction mixture is poured into a mixture of ethyl acetate and an aqueous sodium bicarbonate solution, and the organic layer is separated. The organic layer is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 3.21 g of ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate.

reactant | ethyl 4,5-dichloro-1,3-benzodioxole-2-carboxylate | 4.0 g | ClC1=C(C=CC=2OC(OC21)C(=O)OCC)Cl | C10H8Cl2O4
reactant | dichloromethoxymethane | 2.12 ml | ClC(OC)Cl | C2H4Cl2O
reactant | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
reactant | dichloromethoxymethane | 2.1 ml | ClC(OC)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 3.52 ml | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium tetrachloride | 2.1 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 3.21 g | ClC1=C(C(=CC=2OC(OC21)C(=O)OCC)C=O)Cl | C11H8Cl2O5
